US09416132B2
CH3NO2 (6.6 mL, 122 mmol) and MeONa (221 mg, 4.1 mmol) was added to a solution of compound 1-methylpiperidin-4-one (10 mL, 81.3 mmol) in EtOH (10 mL). After 30 min more ethanol (15 mL) was added to facilitate stirring. The reaction mixture was stirred at room temperature for 2 days and then filtered through celite. The isolated solid was washed with ether to give the product 1-methyl-4-(nitromethyl)piperidin-4-ol (5.7 g, yield 40.4%). 1H-NMR (DMSO-d6/400 MHz): δ 5.01 (s, 1H), 4.47 (s, 2H), 2.41-2.40 (m, 2H), 2.21-2.15 (m, 2H), 2.12 (s, 3H), 1.64-1.53 (m, 4H).

reactant | CH3NO2 | 122 mmol, 6.6 mL | C[N+](=O)[O-] | CH3NO2
reactant | MeONa | 4.1 mmol, 221 mg | CO[Na]
reactant | 1-methylpiperidin-4-one | 81.3 mmol, 10 mL | CN1CCC(CC1)=O | C6H11NO
solvent | EtOH | 10 mL | CCO | C2H6O
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 1-methyl-4-(nitromethyl)piperidin-4-ol | 5.7 g, yield 40.4% | CN1CCC(CC1)(O)C[N+](=O)[O-] | C7H14N2O3
